US04415580
A mixture containing 35.2 g of 5-acetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile, 300 ml of methanol and 30 ml of dimethylformamide dimethyl acetal was heated with stirring on a steam bath for 4 and 1/2 hours and then allowed to cool to room temperature. The precipitated yellow solid was collected, washed with methanol and dried in an oven under reduced pressure at 95° C. to yield 16.4 g of 5-acetyl-1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridinecarbonitrile, m.p. 267°-270° C.

reactant | 5-acetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 35.2 g | C(C)(=O)C=1C=C(C(NC1C)=O)C#N | C9H8N2O2
reactant | dimethylformamide dimethyl acetal | 30 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 300 ml | CO | CH4O
product | 5-acetyl-1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridinecarbonitrile | 16.4 g | C(C)(=O)C=1C=C(C(NC1C=CN(C)C)=O)C#N | C12H13N3O2
